US04012379
A mixture of 0.392 g. of 7-amino-3-(3-methoxy-1-oxidopyridazin-6-yl)thiomethyl-3-cephem-4-carboxylic acid, 0.42 of sodium hydrogen carbonate, 5 ml. of water and 5 ml. of acetone is cooled to 5° C and under stirring, 0.2 g. of diketene is added, followed by further stirring at room temperature for 30 minutes. The acetone is distilled off and the residue is adjusted to pH 7 with 50 % phosphoric acid, washed with ethyl acetate and developed on a column of polystyrene resin (Amberlite XAD-2) with 5 % aqueous alcohol. The desired fractions are pooled and freeze-dried. The above procedure gives sodium 7-acetoacetamido-3-(3-methoxy-1-oxidopyridazin-6-yl)thiomethyl-3-cephem-4-carboxylate trihydrate as a powder with a faint brownish tinge. Yield 0.152 g. (32 %).

reactant | 7-amino-3-(3-methoxy-1-oxidopyridazin-6-yl)thiomethyl-3-cephem-4-carboxylic acid | NC1[C@@H]2N(C(=C(CS2)CSC2=CC=C(N=[N+]2[O-])OC)C(=O)O)C1=O | C13H14N4O5S2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | water | O | H2O
reactant | diketene | C=C1CC(=O)O1 | C4H4O2
solvent | acetone | CC(=O)C | C3H6O
product | sodium 7-acetoacetamido-3-(3-methoxy-1-oxidopyridazin-6-yl)thiomethyl-3-cephem-4-carboxylate trihydrate | O.O.O.C(CC(=O)C)(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=CC=C(N=[N+]2[O-])OC)C(=O)[O-])C1=O.[Na+] | InChI=1S/C17H18N4O7S2.Na.3H2O/c1-8(22)5-10(23)18-13-15(24)20-14(17(25)26)9(7-30-16(13)20)6-29-12-4-3-11(28-2)19-21(12)27;;;;/h3-4,13,16H,5-7H2,1-2H3,(H,18,23)(H,25,26);;3*1H2/q;+1;;;/p-1/t13?,16-;;;;/m1..../s1
